* H:\Graduate Research\LTspice\HDSC Compel\HDSC_AURA.asc
C3 N001 vc3m 10.27µ
V1 Vin 0 24 AC 1V
C2 vc2p N005 12.49µ
C1 N002 vc1m 13.38µ
L1 N003 Vout 144n Rser=5m
C4 Vout 0 100µ Rser=5m
R2 vc2p S7 5.3m
R3 N004 vc1m 4.1m
R4 vc3m N004 5.3m
R1 Vout 0 .5
M1 N003 NC_01 N004 N004 NMOS
M2 N004 NC_02 0 0 NMOS
M3 N003 NC_03 N005 N005 NMOS
M4 N005 NC_04 0 0 NMOS
M5 N002 NC_05 N003 N003 NMOS
M6 S7 NC_06 N002 N002 NMOS
M7 N001 NC_07 S7 S7 NMOS
M8 Vin NC_08 N001 N001 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\jb\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1
.backanno
.end
